US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-7,8-dimethyl-2,4(1H,3H)-quinazolinedione (Compound 20)
365 mg (1.68 mmol) of 4-chlorobenzenesulfonylisocyanate and 230 mg (1.40 mmol) of 2-amino-3,4-dimethylbenzoic acid were treated in the same way as in Example 1 to obtain 272 mg of the above-identified compound (yield 53.6%). Properties: colorless crystal, Melting point; 241°-245° C., PMR (δppm, DMSO-d6): 2.21 (3H,s), 2.32 (3H,s), 7.06 (1H,d), 7.63 (1H,d), 7.75 (2H,d), 8.18 (2H,d), 10.64 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 1.68 mmol, 365 mg | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-3,4-dimethylbenzoic acid | 1.40 mmol, 230 mg | NC1=C(C(=O)O)C=CC(=C1C)C | C9H11NO2
product | 3-(4-chlorobenzenesulfonyl)-7,8-dimethyl-2,4(1H,3H)-quinazolinedione | 272 mg, yield 53.6% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=C(C(=CC=C2C1=O)C)C)=O | C16H13ClN2O4S
